US06730668B2
Preparation of 2-(4-fluorophenyl)-3-(2-methylsulfanyl-pyrimidin-4-yl)-3-hydroxypropionic acid methyl ester (2):
To a cold (−78° C.) solution of lithium diisopropylamide (21.4 mL of 2M solution in THF, 42.8 mmol) in THF (70 mL) is added dropwise a solution of methyl 4-fluorophenyl-acetate (6.0 g, 35.7 mmol) in THF (30 mL). The solution is stirred for 1 hour at −78° C. after which a solution of 2-methylsulfanyl-pyrimidine-4-carbaldehyde, 1, (6.0 g, 39.3 mmol) in THF (30 mL) is added dropwise to the reaction mixture. Stirring is continued for 45 minutes at −78° C. then the reaction is quenched by pouring the reaction solution into aqueous saturated NH4Cl. The aqueous phase is extracted with ethyl acetate. The organic phases combined, dried (MgSO4), filtered, and concentrated in vacuo. The crude residue is purified over silica (33% EtOAc/hexanes) to afford 8.7 g (76%) of the desired product as a mixture (1:1) of diastereomers.

reactant | lithium diisopropylamide | 42.8 mmol, 2M, 21.4 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl 4-fluorophenyl-acetate | 35.7 mmol, 6.0 g | FC1=CC=C(C=C1)CC(=O)OC | C9H9FO2
reactant | 2-methylsulfanyl-pyrimidine-4-carbaldehyde | CSC1=NC=CC(=N1)C=O | C6H6N2OS
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-(4-fluorophenyl)-3-(2-methylsulfanyl-pyrimidin-4-yl)-3-hydroxypropionic acid methyl ester | 8.7 g, 76% | COC(C(C(O)C1=NC(=NC=C1)SC)C1=CC=C(C=C1)F)=O | C15H15FN2O3S
